US07645789B2
1-Benzo[1,3]dioxol-5-yl-cyclopropanecarboxylic acid (2.07 g, 10.0 mmol) was dissolved in thionyl chloride (2.2 mL) under N2. N,N-dimethylformamide (0.3 mL) was added and the solution was allowed to stir for 30 minutes. The excess thionyl chloride was removed under vacuum and the resulting solid was dissolved in anhydrous dichloromethane (15 mL) containing triethylamine (2.8 mL, 20.0 mmol). Ethyl 5-amino-1H-indole-2-carboxylate (2.04 g, 10.0 mmol) in 15 mL of anhydrous dichloromethane was slowly added to the reaction. The resulting solution was allowed to stir for 1 hour. The reaction mixture was diluted to 50 mL with dichloromethane and washed three times with 50 mL of 1N HCl, saturated aqueous sodium bicarbonate, and saturated aqueous sodium chloride. The organic layer was dried over sodium sulfate and evaporated to dryness to yield ethyl 5-(1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-1H-indole-2-carboxylate as a gray solid (3.44 g, 88%). ESI-MS m/z calc. 392.4; found 393.1 (M+1)+ Retention time 3.17 minutes. 1H NMR (400 MHz, DMSO-d6) δ 11.80 (s, 1H), 8.64 (s, 1H), 7.83 (m, 1H), 7.33-7.26 (m, 2H), 7.07 (m, 1H), 7.02 (m, 1H), 6.96-6.89 (m, 2H), 6.02 (s, 2H), 4.33 (q, J=7.1 Hz, 2H), 1.42-1.39 (m, 2H), 1.33 (t, J=7.1 Hz, 3H), 1.06-1.03 (m, 2H).

reactant | 1-Benzo[1,3]dioxol-5-yl-cyclopropanecarboxylic acid | 10.0 mmol, 2.07 g | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)O | C11H10O4
reactant | N,N-dimethylformamide | 0.3 mL | CN(C=O)C | C3H7NO
reactant | triethylamine | 20.0 mmol, 2.8 mL | C(C)N(CC)CC | C6H15N
reactant | Ethyl 5-amino-1H-indole-2-carboxylate | 10.0 mmol, 2.04 g | NC=1C=C2C=C(NC2=CC1)C(=O)OCC | C11H12N2O2
solvent | thionyl chloride | 2.2 mL | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | ethyl 5-(1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-1H-indole-2-carboxylate | 3.44 g, 88% | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=C1C=C(NC1=CC2)C(=O)OCC | C22H20N2O5
